US09388190B2
To a solution of (R)-3-isopropylpiperazin-2-one hydrochloride (2.61 g, 14.62 mmol) and iPr2NEt (7.60 mL, 43.86 mmol) in DMF (20 mL) was added a solution of 2-chloro-4-(trifluoromethyl)pyrimidine (3.47 g, 19.00 mmol) in DMF (2 mL). The resulting solution was stirred at 100° C. under N2 for 3 h at which point the reaction was deemed complete by LC-MS. Sat. aq. NH4Cl (30 mL) was added to quench the reaction, followed by addition of EtOAc (30 mL). The EtOAc layer was separated and the aqueous layer was extracted with EtOAc (3×20 mL). The EtOAc layers were combined, dried using Na2SO4 and evaporated to give nearly pure crude product. Purification on a silica cartridge using ISCO FCC eluting with 100% EtOAc gave 4.03 grams of (R)-3-isopropyl-4-(4-(trifluoromethyl)pyrimidin-2-yl)piperazin-2-one (96%) as a slightly orange thick oil. LC-MS m/z 289.17 [M+H]+. 1H NMR (CDCl3, 400 MHz): δ 8.52 (d, J=4.8 Hz, 1H), 6.82 (d, J=4.4 Hz, 1H), 6.56 (br, 1H), 5.20 (d, J=6.8 Hz, 1H), 4.83-4.77 (m, 1H), 3.55-3.37 (m, 3H), 2.49-2.41 (m, 1H), 1.15 (d, J=6.8 Hz, 3H), 1.04 (d, J=6.8 Hz, 3H).

reactant | (R)-3-isopropylpiperazin-2-one hydrochloride | 14.62 mmol, 2.61 g | Cl.C(C)(C)[C@@H]1C(NCCN1)=O
reactant | iPr2NEt | 43.86 mmol, 7.60 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-chloro-4-(trifluoromethyl)pyrimidine | 19.00 mmol, 3.47 g | ClC1=NC=CC(=N1)C(F)(F)F | C5H2ClF3N2
reactant | NH4Cl | 30 mL | [NH4+].[Cl-]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | (R)-3-isopropyl-4-(4-(trifluoromethyl)pyrimidin-2-yl)piperazin-2-one | 4.03 grams, 96% | C(C)(C)[C@@H]1C(NCCN1C1=NC=CC(=N1)C(F)(F)F)=O | C12H15F3N4O
